datasets/10k__Tet_Int.csv
SMILES Labelled
"[Li][O:21]CCCCCC.[C:20](=[O:10])(OC)OC1=CC=CC=C1>>[Li][O+:21]([C:20]([O-:10])(OC)OC1=CC=CC=C1)CCCCCC 21=20;20,10=10"
"C[O+:21]=[C:20]2[O]C(CC)C([H])[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21]C)[O]C(CC)C([H])[O]1 10=20;20,21=21"
"[H][NH+:10](C(CC)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C.[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C8=CC=CC=C8)[O][C:20]([O]C)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][O:10]C([H])C([H])[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])[O]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O][C:20]([O]CC)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][S+:10](C(C9=CC=CC=C9)C([H])C(CC)[S]1)[C:20]1([O:21][H])[O][H].[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C([H])C(CC)[S][C:20]([O][H])=[O+:21][H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[S]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21]C)[O][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[S]1 10=20;20,21=21"
"[H][S+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[O]C.[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[S][C:20]([O]C)=[O+:21]C 21=20;20,10=10"
"[H][O+:10](C([H])C([H])C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])C(C)[O][C:20]([O]C)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][S:10]C(C)C(C)C([H])[S][C:20]([O]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(C)C(C)C([H])[S]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([NH:21]CC)[O][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[O]2.C[O:10][H] 21=20;20,10=10"
"CC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CC)C)CCCCCC>>CC1C(C(O[C:20](=[O:10])N1CCCCCC)C)CCCCCC.[O-:21]CC 10=20;20,21=21"
"[H][O+:10](C(CC)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C8=CC=CC=C8)[NH][C:20]([NH]CC)=[NH+:21]CC 21=20;20,10=10"
"[O-:21][C:20]1(OCC)C([H])C([H])C([H])C(C)[O+:10]1([Na])>>[O:10]([Na])C(C)C([H])C([H])C([H])[C:20](OCC)=[O:21] 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1CCCCCC)O[H])[H])C>>C(C([O-:21])CCCCCC)(C(O[C:20](=[O:10])O[H])[H])C 10=20;20,21=21"
"CC[O:10][H].[H][NH+:21]=[C:20]([NH]C8=CC=CC=C8)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([NH:21][H])([NH]C8=CC=CC=C8)[NH]C7=CC=CC=C7 10=20;20,21=21"
"CCN([C:20](=[O:10])OC(C(C([O-:21])CC)CC)C)C>>CCN([C:20]1(OC(C(C([O:21]1)CC)CC)C)[O-:10])C 21=20;20,10=10"
"C9=CC=CC=C9[NH+:10]([H])[C:20]([NH:21]CC)([O][H])[O][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH:10][H].CC[NH+:21]=[C:20]([O][H])[O][H] 21=20;20,10=10"
"[O-:21][C:20]1(C)[O+:10]([K])C(CC)C(C)=C1C>>[O:10]([K])C(CC)/C(C)=C([C:20](C)=[O:21])/C 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CC)C)CCCCCC.[O-:21]C>>C1=CC=CC=C1C1C(C(O[C:20](N1CC)([O-:10])[O:21]C)C)CCCCCC 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](CC)C([H])[CH]([H])[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C([H])[NH]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C([H])C([H])[NH]1)[C:20]1([NH:21]CC)[O]C.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C([H])[NH][C:20]([O]C)=[NH+:21]CC 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH]([H])C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(CC)[O]2.C[O:10][H] 21=20;20,10=10"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])[H])CCCCCC)C1=CC=CC=C1)C1=CC=CC=C1>>[H]N([C:20]1(OC(C(C([O:21]1)[H])CCCCCC)C1=CC=CC=C1)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"CC1C(C(O[C:20](=[O:10])N1C)C)[H].[O-:21]CCCCCC>>CC1C(C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)C)[H] 21=20;20,10=10"
"[OH:21][C:20]1(OC)C(C)C(C)=C(C)C([H])[OH+:10]1>>[OH:10]C([H])/C(C)=C(C)\C(C)[C:20](OC)=[OH+:21] 21=20;20,10=10"
"[Li][O+:21]([C:20]([O-:10])(OCCCCCC)OC)CC>>[Li][O:21]CC.[C:20](=[O:10])(OCCCCCC)OC 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C(C)C(C)=C([H])C(CC)[O+:10]1([K])>>[O:10]([K])C(CC)/C([H])=C(C)\C(C)[C:20](OCC)=[O:21] 21=20;20,10=10"
"[H][NH:10]C(CC)C(C)C([H])[NH][C:20]([NH][H])=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(CC)C(C)C([H])[NH]1)[C:20]1([NH:21][H])[NH][H] 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])[H])CC)CCCCCC)C1=CC=CC=C1>>[H]N([C:20]1(OC(C(C([O:21]1)[H])CC)CCCCCC)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CC)C)CC)C1=CC=CC=C1>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CC)C)CC)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"[OH:10]C(CC)C([H])C([C:20]([H])=[OH+:21])[H]>>[OH:21][C:20]1([H])[OH+:10]C(CC)C([H])C1[H] 10=20;20,21=21"
"C(C([O-:21])C)(C(O[C:20](=[O:10])OC1=CC=CC=C1)C1=CC=CC=C1)[H]>>C1(C(O[C:20]([O-:10])([O:21]C1C)OC1=CC=CC=C1)C1=CC=CC=C1)[H] 21=20;20,10=10"
"CCN([C:20](=[O:10])OC(C([O-:21])C)[H])CC>>CCN([C:20]1(OC(C([O:21]1)C)[H])[O-:10])CC 21=20;20,10=10"
"CC1C(C(O[C:20](=[O:10])N1[H])CCCCCC)CCCCCC.[O-:21]C1=CC=CC=C1>>CC1C(C(O[C:20](N1[H])([O-:10])[O:21]C1=CC=CC=C1)CCCCCC)CCCCCC 21=20;20,10=10"
